US07449466B2
Production Example 30 was repeated except that 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine was replaced with 1-(4-benzyloxy-3-fluorophenyl)-4-(3-phenylpropyl)-piperazine (394 mg). The resulting crude product was purified on TLC (developer, chloroform: methanol=10:1) to provide 2-fluoro-4-[4-(3-phenylpropyl)piperazin-1-yl]phenol (224 mg).

reactant | 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)Cl | C26H35ClN2O
reactant | 1-(4-benzyloxy-3-fluorophenyl)-4-(3-phenylpropyl)-piperazine | 394 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1=CC=CC=C1)F | C26H29FN2O
product | 2-fluoro-4-[4-(3-phenylpropyl)piperazin-1-yl]phenol | 224 mg | FC1=C(C=CC(=C1)N1CCN(CC1)CCCC1=CC=CC=C1)O | C19H23FN2O
